2110-03-23 06:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2110-3-22**] 09:16 AM
 TRANSTHORACIC ECHO - At [**2110-3-22**] 09:55 AM - no right heart strain
 CALLED OUT since last evening
   PTT now therapeutic
   Allergies:
   Penicillins
   Unknown;
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 600 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-3-23**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98.1
   HR: 105 (91 - 112) bpm
   BP: 136/59(78) {113/46(63) - 150/77(92)} mmHg
   RR: 20 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 65 Inch
             Total In:
                                                                  1,106 mL
                                                                    108 mL
   PO:
             TF:
   IVF:
                                                                  1,106 mL
                                                                    108 mL
   Blood products:
   Total out:
                                                                    690 mL
                                                                    205 mL
   Urine:
                                                                    690 mL
                                                                    205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    416 mL
                                                                    -97 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   313 K/uL
   12.8 g/dL
   240 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.9 mEq/L
   28 mg/dL
   108 mEq/L
   146 mEq/L
   39.4 %
   12.0 K/uL
        [image002.jpg]
                             [**2110-3-22**]  12:00 AM
                             [**2110-3-22**]  06:02 AM
                             [**2110-3-23**]  02:47 AM
   WBC
   8.8
   10.2
   12.0
   Hct
   41.4
   40.9
   39.4
   Plt
   300
   302
   313
   Cr
   0.6
   0.4
   0.6
   TropT
   0.01
   Glucose
   [**Telephone/Fax (3) 4106**]
   Other labs: PT / PTT / INR:12.7/93.2/1.1, CK / CKMB /
   Troponin-T:44//0.01, Differential-Neuts:85.3 %, Lymph:11.3 %, Mono:3.0
   %, Eos:0.3 %, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 PULMONARY EMBOLISM (PE), ACUTE
 ATRIAL FIBRILLATION (AFIB)
 .H/O DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
 .H/O CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITHOUT ACUTE EXACERBATION
   Assessment and Plan: 74y/o F with a PMH of CAD, COPD presenting with
   dyspnea and found to have PE.
   .
   # [**Name (NI) 4071**] Embolism - pt presenting with dyspnea, HD stable. Risk
   factors include immbolitiy and recent hospitalization. Not on long-term
   prophylaxis.
   - Continue heparin gtt, previously not on anticoagulation secondary to
   fall risk, given large clot burden will continue heparin for now
   - Consider IVC filter if unable to continue anticoagulation as
   outpatient, should discuss with PCP
   [**Name Initial (PRE) **] Obtain LE US for risk assessment
   .
   # Atrial Fibrillation - Pt presenting with RVR in setting of hypoxia
   and PE
   - Will obtain rate control with IV metoprolol, restart po regimen of
   lopressor 50mg [**Hospital1 **]
   - Not previously on coumadin [**3-10**] fall risk
   .
   # Hypernatremia - Na 149 on presentation, total body overloaded but
   likely intravascularly dry - will replete with D5W
   .
   # Leukocytosis - afebrile, no obvious source of infection, likely
   reactive in setting of PE, CXR and UA negative
   - continue to [**Month/Day (2) 1174**]
   - follow blood and urine cultures
   .
   # COPD - FEV1 unknown, no current evidence of exacerbation - will
   continue outpatient regimen of prednisone 5mg [**Hospital1 **], fluticasone,
   albuterol and atrovent
   # CAD/CHF - Trop leak to 0.03 in setting of PE, continue to [**Last Name (LF) 1174**], [**First Name3 (LF) 116**]
   add on CK
   - continue metoprolol, ASA, plavix, statin
   - Continue lasix at home dose
   .
   # DM 2 - continue SSI
   .
   # Hyperlipidemia - continue statin
   .
   # Anxiety - continue paxil and clonazepam PRN
   .
   #. Dysphagia - modified diet per NH recs
   .
   #. Dementia - patient alert and cooperative but with significant memory
   deficits
   .
   # FEN: No IVF, replete electrolytes, modified diet
   .
   # Prophylaxis: heparin gtt, aspiration precautions
   .
   # Access: peripherals
   .
   # Code: Full
   .
   # Communication: Patient
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2110-3-22**] 12:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: Mrs [**Known lastname 1219**] has had a good response to IV
   digoxin overnight with HR in mid 80-90 range in afib. She feels less
   tachypneic at present . She now has a therapeutic PTT on Iv heparin.
   Coumadin started last night. Her echo did not show features of right
   heart strain.
   Exam notable for elderly ill appearing woman with mild anasarca and
   diffuse exp wheezing not using acc M's. her HS are distant. Tm99.5 BP
   130/79 HR 80-100 RR of [**1-19**] with sat 100% on 3lpm NC .
   Labs notable for WBC 12K, HCT of 39.4 , K+ 3.9, Cr 0.46.  EKG with LAD,
   LVH, AFib at 80-110 and no acute change .
   She has tolerated DVT/ PE without significant hemodynamic setback.
   Lopressor will resume today and we will continue PO digoxin in interim
   too to make sure HR control is adequate. We will avoid albuterol and
   prefer atrovent for underlying COPD. Nutritional status needs to be
   optimized. She is ready for transfer to floor later today.
   Remainder of plan as outlined above.
   Patient is stable but chronically ill
   Total time: 35 min